2168-04-17 07:38:00 Physician Resident Progress Note
Chief Complaint: peritonitis, HRS
   24 Hour Events:
   Renal consulted, think likely HRS due to large volume paracentesis and
   peritonitis.  Recommended vanc dosing by level
   NPH changed to 10 qam and 16 qpm by [**Last Name (un) 303**]
   Renal ultrasound -> preliminary with no hydronephrosis
   continued on octreotide, midodrine, albumin [**Hospital1 7**]
   Tube feeds started
   No surgery reccs (? do they know about MRSA peritonitis)
   Given vitamin K for 3 days to treat for nutritional deficiency as
   contribution to elevated INR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 09:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-17**] 05:52 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2168-4-17**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-17**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 88 (88 - 100) bpm
   BP: 93/52(60) {83/38(50) - 109/59(70)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 13 (1 - 16)mmHg
   Bladder pressure: 20 (13 - 20) mmHg
   Total In:
                                                                  2,458 mL
                                                                    506 mL
   PO:
                                                                    240 mL
   TF:
                                                                     20 mL
                                                                    230 mL
   IVF:
                                                                  1,708 mL
                                                                    276 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                    134 mL
                                                                      5 mL
   Urine:
                                                                    134 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,324 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///11/
   Physical Examination
   Gen: A&O x3, pleasant and cooperative, slightly tachypnic with speaking
   HEENT:NC AT EOMI, IJ in place
   CV: RRR s1 s2
   Lungs: crackles at the right base otherwise CTA
   Abd: distended, tenderness in the RLQ, no rebound, well healed midline
   incision from umbilical hernia repair, no exudate, steristrips in
   place, positive bowel sounds
   Ext: no pedal edema, warm
   Labs / Radiology
   46 K/uL
   8.3 g/dL
   173 mg/dL
   4.4 mg/dL
   11 mEq/L
   4.3 mEq/L
   93 mg/dL
   101 mEq/L
   128 mEq/L
   24.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2168-4-15**]  06:34 PM
                             [**2168-4-15**]  11:40 PM
                             [**2168-4-16**]  12:07 AM
                             [**2168-4-16**]  04:21 AM
                             [**2168-4-16**]  03:51 PM
                             [**2168-4-17**]  03:03 AM
   WBC
   14.5
   11.4
   10.1
   Hct
   26.9
   28
   25.8
   24.8
   Plt
   42
   50
   46
   Cr
   3.2
   3.1
   3.3
   3.6
   4.4
   Glucose
   149
   136
   181
   173
   Other labs: PT / PTT / INR:33.6/67.6/3.5, ALT / AST:[**1-3**], Alk Phos / T
   Bili:35/4.2, Differential-Neuts:86.5 %, Lymph:4.2 %, Mono:8.0 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L, Ca++:8.3 mg/dL, Mg++:3.0 mg/dL,
   PO4:7.4 mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Mr. [**Known lastname 31**] is a 57-year-old man with hepatitis C cirrhosis complicated
   by diuretic refractory ascites with q2wk paracentesis, portal
   hypertension, splenomegaly, h/o SBP, and hepatocellular carcinoma
   status-post RFA [**3-20**] admitted to MICU with hyperglycemia, ARF and
   sepsis from SBP s/p PC today with 6000WBC
   .
   # Sepsis- source is SBP given results of paracentesis and + cx on [**4-11**]
   with MRSA, leukocytosis. Baseline SBP 90s.  Improving with antibiotic
   therapy, WBC trending down, BP
s stabilizing.
   - continue vancomycin and zosyn to cover for MRSA and GNR in peritoneum
   -small volume para today, will resend cell count and culture to eval
   for decreasing cell count as marker of resolving infection, if cell
   count going up would change zosyn to meropenam.
   - albumin 50gm IV BID
   - follow up cultures peritoneum, blood
   .
   # Acute renal failure- b/l 1.5-1.7, most likely 2/2 HRS resulting from
   combination of large volume paracentesis and bacterial peritonitis.
   Despite tx for HRS creatinine continues to worsen with minimal urine
   output.   Renal ultrasound did not show any evidence of hydronephrosis
   or post obstructive cause for the renal failure.
   - continue octreotid/midodrine/albumin 50g IV BID
   -appreciate renal reccs -> will likely require dialysis in the next [**1-15**]
   days
   -given that bladder pressure now elevated to 25, will do ~2L
   paracentesis to relieve pressure [**2-15**] concern that ascites could now
   contribute to worsening renal failure.
   .
   # Hyperglycemia- difficult to control in setting acute infection, may
   be contribution of poor sq absorption.
   -touch base with [**Last Name (un) **] re: reccs for uptitration of insulin regimen
   - NPH [**Hospital1 7**]/HISS
   - off octerotide gtt [**2-15**] hyperglycemia
   .
   # HCV cirrhosis- currently on transplant list
   - SBP on Zosyn/Vanco
   - encephalopathy ppx - lactulose, rifaximin
   - esophageal varices ppx - holding nadolol
   - ascites treatment - holding spironolactone 100mg daily, furosemide
   40mg daily
   - nutritional supplementation w tube feeds
   .
   #Coagulopathy
 likely [**2-15**] ESLD and nutritional deficiency
   -5mg po vitamin K x 3 days given likely will need line for dialysis
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control: NPH [**Hospital1 7**], HISS
   Lines:
   20 Gauge - [**2168-4-15**] 07:19 PM
   Multi Lumen - [**2168-4-15**] 10:26 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU

2168-04-18 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2168-4-17**] 04:00 PM
 PARACENTESIS - At [**2168-4-17**] 04:00 PM
   -Renal: can start dialysis non-urgently rec IR placement of temporary
   HD cath -> NPO for procedure
   -Liver: needs dialysis, cont octreotide/midodrine/albumin
   -Diagnostic/Therapeutic Paracentesis of 2L, cell count improved, though
   with 1+ GPCs, gave dose of Daptomycin per Dr. [**Last Name (STitle) 1174**]
   [**Name (STitle) 6801**] gtt starting [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] recommendations
   -Asymptomatic BP in the 70s at 5AM -> responded to 1L NS
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 09:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-18**] 12:00 AM
   Daptomycin - [**2168-4-18**] 01:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria, Foley
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): Jaundice
   Endocrine: Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy, Anemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2168-4-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 83 (82 - 105) bpm
   BP: 87/53(60) {79/41(48) - 113/63(73)} mmHg
   RR: 19 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (0 - 13)mmHg
   Bladder pressure: 18 (18 - 24) mmHg
   Total In:
                                                                  1,776 mL
                                                                  1,384 mL
   PO:
   TF:
                                                                    885 mL
   IVF:
                                                                    581 mL
                                                                  1,384 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    151 mL
                                                                     50 mL
   Urine:
                                                                    151 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,625 mL
                                                                  1,334 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Thin/cachectic
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Non-tender, Bowel sounds present, Distended, surgical scar
   intact
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  scattered ecchymoses, jaundiced
   Neurologic: Attentive, alert and talkative.  One beat asterixis
   Labs / Radiology
   43 K/uL
   8.1 g/dL
   156 mg/dL
   5.1 mg/dL
   13 mEq/L
   3.2 mEq/L
   104 mg/dL
   103 mEq/L
   130 mEq/L
   24.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2168-4-15**]  06:34 PM
                             [**2168-4-15**]  11:40 PM
                             [**2168-4-16**]  12:07 AM
                             [**2168-4-16**]  04:21 AM
                             [**2168-4-16**]  03:51 PM
                             [**2168-4-17**]  03:03 AM
                             [**2168-4-17**]  03:30 PM
                             [**2168-4-18**]  02:56 AM
   WBC
   14.5
   11.4
   10.1
   8.8
   Hct
   26.9
   28
   25.8
   24.8
   24.4
   Plt
   42
   50
   46
   43
   Cr
   3.2
   3.1
   3.3
   3.6
   4.4
   4.6
   5.1
   Glucose
   149
   136
   181
   173
   282
   156
   Other labs: PT / PTT / INR:34.5/61.4/3.6, ALT / AST:[**10-26**], Alk Phos / T
   Bili:42/4.5, Differential-Neuts:86.5 %, Lymph:4.2 %, Mono:8.0 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L, Ca++:8.1 mg/dL, Mg++:3.0 mg/dL,
   PO4:7.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Mr. [**Known lastname 31**] is a 57-year-old man with hepatitis C cirrhosis complicated
   by diuretic refractory ascites with q2wk paracentesis, portal
   hypertension, splenomegaly, h/o SBP, and hepatocellular carcinoma
   status-post RFA [**3-20**] admitted to MICU with hyperglycemia, ARF and
   sepsis from SBP s/p PC today with 6000WBC
   .
   # Sepsis/Bacterial Peritonitis
 Paracentesis on [**4-11**] with MRSA and
   significant leukocytosis.  Baseline SBP in the 90s and now stable for
   the most part with occational dips into the 70s.  Repeat paracentesis
   on [**4-17**] with 1+ GPCs and improved leukocytosis.  Increased concern for
   persistent bacterial colonization esp given high vanco troughs.
   Otherwise afebrile and asymptomatic.
   - continue vancomycin and zosyn to cover for MRSA and GNR in peritoneum
   -> consider meropenem if decompensates
   - given daptomycin 400mg IV x1 last night for persistent GPCs -> will
   discuss need for continuance.
   -  f/u paracentesis gram stain/micro, as well as blood cultures
   - albumin 50gm IV BID
   - IVF boluses prn for low BP, monitor CVP with goal [**10-24**]
   .
   # Acute renal failure- b/l 1.5-1.7, today intervally increased.  Most
   likely 2/2 HRS resulting from combination of large volume paracentesis
   and bacterial peritonitis.   Despite tx for HRS creatinine continues to
   worsen with minimal urine output.   Renal ultrasound did not show any
   evidence of hydronephrosis or post obstructive cause for the renal
   failure.   Bladder pressure 25 s/p 2 liter paracentesis
   - continue octreotid/midodrine/albumin 50g IV BID
   - appreciate renal reccs
   - plan to initiate hemodialysis in near future.  Will have temporary HD
   line placed by IR today
   - FFP prior to line placement
   - Renal dose medications, cont phos binder, [**Hospital1 7**] lytes
   .
   # Hyperglycemia- Has been difficult to control in setting acute
   infection, may be contribution of poor sq absorption.
   - Appreciate [**Last Name (un) **] recs
   - Restarted insuling gtt and cont while in MICU
   .
   # HCV cirrhosis- End stage, currently on transplant list
   - SBP on Zosyn/Vanco, given dose of Dapto
   - encephalopathy ppx - lactulose, rifaximin
   - esophageal varices ppx - holding nadolol
   - ascites treatment - holding spironolactone 100mg daily, furosemide
   40mg daily
   - nutritional supplementation w tube feeds -> restart after HD line
   .
   #Coagulopathy
 likely [**2-15**] ESLD and nutritional deficiency, though not
   correcting with vitamin k
   -5mg po vitamin K x 3 days given likely will need line for dialysis
   - FFP to be given prior to procedures
   .
   # FEN: Tube feeds, monitor electrolytes
   .
   # Anemia/Thrombocytopenia: Likely multifactorial due to ESLD, ARF,
   nutritional deficiency, phlebotomy
   - Cont to trend
   - Active T/S at all times
   .
   # Anion gap acidosis: Likely related to uremia due to ARF as well as
   lactic acidosis due to ESLD
   ICU Care
   Nutrition:
   Glycemic Control:  insulin gtt
   Lines: R IJ CVL
   20 Gauge - [**2168-4-15**] 07:19 PM
   Multi Lumen - [**2168-4-15**] 10:26 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU for now

2168-04-19 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2168-4-18**] 11:13 AM
   ID consulted:
   1. Continue daily blood cultures peripherally (and if you must
   keep the right then from RIJ as well).
   2. Blood cultures if fever >101F
   3. Repeat diagnostic paracentesis ~ [**2168-4-20**].
   4. TTE for valve involvement.
   Management:
   1. Continue vancomycin.  1gm when level <20.  [or by HD protocol
   if starting HD.]
   2. Discontinue daptomycin and zosyn
   HD tunnelled line placed
   Renal recs: intermittent HD
   Liver recs: hold the course
   Cx data: [**4-15**] blood cx- staph aureus
   resume TF after procedure
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 09:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-18**] 12:00 AM
   Daptomycin - [**2168-4-18**] 01:15 AM
   Piperacillin - [**2168-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Integumentary (skin): Jaundice
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy, Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2168-4-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 90 (81 - 98) bpm
   BP: 93/49(59) {72/39(49) - 102/62(69)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 1 (1 - 13)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,982 mL
                                                                    580 mL
   PO:
                                                                    200 mL
                                                                    150 mL
   TF:
                                                                    123 mL
                                                                    181 mL
   IVF:
                                                                  2,218 mL
                                                                    250 mL
   Blood products:
                                                                    961 mL
   Total out:
                                                                    804 mL
                                                                     18 mL
   Urine:
                                                                    104 mL
                                                                     18 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  3,178 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///16/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Non-tender, Bowel sounds present, Distended, surgical site
   clean
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, moving [**Doctor Last Name **] extremities.  1 beat of asterixis
   Labs / Radiology
   40 K/uL
   7.6 g/dL
   273 mg/dL
   4.1 mg/dL
   16 mEq/L
   3.9 mEq/L
   80 mg/dL
   102 mEq/L
   134 mEq/L
   22.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2168-4-15**]  06:34 PM
                             [**2168-4-15**]  11:40 PM
                             [**2168-4-16**]  12:07 AM
                             [**2168-4-16**]  04:21 AM
                             [**2168-4-16**]  03:51 PM
                             [**2168-4-17**]  03:03 AM
                             [**2168-4-17**]  03:30 PM
                             [**2168-4-18**]  02:56 AM
                             [**2168-4-19**]  04:03 AM
   WBC
   14.5
   11.4
   10.1
   8.8
   6.5
   Hct
   26.9
   28
   25.8
   24.8
   24.4
   22.0
   Plt
   42
   50
   46
   43
   40
   Cr
   3.2
   3.1
   3.3
   3.6
   4.4
   4.6
   5.1
   4.1
   Glucose
   149
   136
   181
   173
   282
   156
   273
   Other labs: PT / PTT / INR:34.9/54.7/3.7, ALT / AST:[**9-26**], Alk Phos / T
   Bili:44/5.9, Differential-Neuts:86.5 %, Lymph:4.2 %, Mono:8.0 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L, Albumin:4.2 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.2 mg/dL
   MICRO:
   Peritoneal fl: [**4-11**] -> MRSA; [**4-17**] -> 1+ GPCs
   Blood cx: [**4-15**] -> Coag + SA; [**Date range (1) 6826**] -> NGTD
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Mr. [**Known lastname 31**] is a 57-year-old man with hepatitis C cirrhosis complicated
   by diuretic refractory ascites with q2wk paracentesis, portal
   hypertension, splenomegaly, h/o SBP, and hepatocellular carcinoma
   status-post RFA [**3-20**] admitted to MICU with hyperglycemia, ARF and
   sepsis from SBP s/p PC today with 6000WBC
   .
   # Sepsis/Bacterial Peritonitis
 Paracentesis on [**4-11**] with MRSA and
   significant leukocytosis.  Baseline SBP in the 90s and now stable for
   the most part with occational dips into the 70s.  Repeat paracentesis
   on [**4-17**] with 1+ GPCs and improved leukocytosis.  Increased concern for
   persistent bacterial colonization esp given high vanco troughs.
   Otherwise afebrile and asymptomatic.
   - Appreciated ID recs:
   - Cont Vanco and dose for <20 or per HD
   - Dapto stopped, d/c zosyn, place back  on home ppx regimen with
   ciprofloxacin
   - Surveillance cultures, f/u paracentesis micro
   - albumin 50gm IV BID
   - IVF boluses prn for low BP, monitor CVP with goal [**10-24**]
   - possible repeat paracentesis today
   - Check TTE today
   .
   # Acute renal failure- b/l 1.5-1.7.  Most likely 2/2 HRS resulting from
   combination of large volume paracentesis and bacterial peritonitis.
   Despite tx for HRS creatinine continues to worsen with minimal urine
   output.   Renal ultrasound did not show any evidence of hydronephrosis
   or post obstructive cause for the renal failure.   Bladder pressure 25
   s/p 2 liter paracentesis [**4-16**].  s/p HD line [**2168-4-18**]
   - continue octreotid/midodrine/albumin 50g IV BID
   - appreciate renal reccs
   - HD initiated yesterday, renal following
   - FFP for procedures
   - Renal dose medications, cont phos binder, [**Hospital1 7**] lytes
   .
   # Hyperglycemia- Has been difficult to control in setting acute
   infection, may be contribution of poor sq absorption.
   - Appreciate [**Last Name (un) **] recs
   - Increasing NPH to 20 units TID with HISS, can consider insulin gtt if
   not responsive
   .
   # HCV cirrhosis- End stage, currently on transplant list
   - SBP on Vanco by level for <20.  Dapto stopped
   - encephalopathy ppx - lactulose, rifaximin
   - esophageal varices ppx - holding nadolol
   - ascites treatment - holding spironolactone 100mg daily, furosemide
   40mg daily
   - nutritional supplementation w tube feeds -> restart after HD line
   .
   #Coagulopathy
 likely [**2-15**] ESLD and nutritional deficiency, though not
   correcting with vitamin k
   -5mg po vitamin K with little effect
   - FFP to be given prior to procedures
   .
   # FEN: Tube feeds, monitor electrolytes
   .
   # Anemia/Thrombocytopenia: Likely multifactorial due to ESLD, ARF,
   nutritional deficiency, phlebotomy.  Hct 22 today
   - Cont to trend
   - Active T/S at all times
   - xfuse prbcs for Hct <21, Plt <10 unless bleeding
   .
   # Anion gap acidosis: Likely related to uremia due to ARF as well as
   lactic acidosis due to ESLD
   - Cont follow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2168-4-18**] 05:51 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-4-15**] 07:19 PM
   Multi Lumen - [**2168-4-15**] 10:26 PM
   Dialysis Catheter - [**2168-4-18**] 11:13 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2168-04-20 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2168-4-19**] 11:12 AM
 CALLED OUT
   1.Insulin increased to NPH 20 units TID however still quite
   hyperglycemic with FSBG in the 200's.
   2.D/C'd zosyn per ID reccs, resumed home dose cipro for SBP prophylaxis
   3.TTE -> No vegetations or clinically-significant regurgitant valvular
   disease seen (good-quality study)
   4.ID recommends repeat paracentesis with cell count, diff and culture
   on [**4-20**] to evaluate for resolution of MRSA
   5. He was called out to [**Doctor Last Name **] [**Doctor Last Name **]
   6. Transfused one unit PRBC [**4-20**] for HCT 20
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-18**] 12:00 AM
   Daptomycin - [**2168-4-18**] 01:15 AM
   Piperacillin - [**2168-4-19**] 12:00 AM
   Vancomycin - [**2168-4-19**] 11:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-20**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 87 (84 - 100) bpm
   BP: 95/51(62) {89/46(57) - 109/61(71)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 13 (2 - 15)mmHg
   Total In:
                                                                  2,807 mL
                                                                    948 mL
   PO:
                                                                    730 mL
                                                                    480 mL
   TF:
                                                                    776 mL
                                                                    301 mL
   IVF:
                                                                    631 mL
                                                                     76 mL
   Blood products:
                                                                    300 mL
                                                                     92 mL
   Total out:
                                                                    145 mL
                                                                    555 mL
   Urine:
                                                                    145 mL
                                                                     55 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,662 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Non-tender, Bowel sounds present, Distended, surgical site
   clean
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, moving [**Doctor Last Name **] extremities.  1 beat of asterixis
   Labs / Radiology
   31 K/uL
   7.1 g/dL
   72 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.3 mEq/L
   60 mg/dL
   103 mEq/L
   139 mEq/L
   20.4 %
   4.9 K/uL
        [image002.jpg]
                             [**2168-4-15**]  06:34 PM
                             [**2168-4-15**]  11:40 PM
                             [**2168-4-16**]  12:07 AM
                             [**2168-4-16**]  04:21 AM
                             [**2168-4-16**]  03:51 PM
                             [**2168-4-17**]  03:03 AM
                             [**2168-4-17**]  03:30 PM
                             [**2168-4-18**]  02:56 AM
                             [**2168-4-19**]  04:03 AM
                             [**2168-4-20**]  03:37 AM
   WBC
   14.5
   11.4
   10.1
   8.8
   6.5
   4.9
   Hct
   26.9
   28
   25.8
   24.8
   24.4
   22.0
   20.4
   Plt
   42
   50
   46
   43
   40
   31
   Cr
   3.2
   3.1
   3.3
   3.6
   4.4
   4.6
   5.1
   4.1
   3.2
   Glucose
   149
   136
   181
   173
   282
   156
   273
   72
   Other labs: PT / PTT / INR:34.4/64.1/3.6, ALT / AST:[**9-26**], Alk Phos / T
   Bili:44/6.0, Differential-Neuts:86.5 %, Lymph:4.2 %, Mono:8.0 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L, Albumin:4.2 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Mr. [**Known lastname 31**] is a 57-year-old man with hepatitis C cirrhosis complicated
   by diuretic refractory ascites with q2wk paracentesis, portal
   hypertension, splenomegaly, h/o SBP, and hepatocellular carcinoma
   status-post RFA [**3-20**] admitted to MICU with hyperglycemia, ARF and
   sepsis from SBP s/p PC today with 6000WBC
   .
   # Sepsis/Bacterial Peritonitis
 Paracentesis on [**4-11**] with MRSA and
   significant leukocytosis.  Baseline SBP in the 90s and now stable for
   the most part with occational dips into the 70s.  Repeat paracentesis
   on [**4-17**] with 1+ GPCs and improved leukocytosis.  Increased concern for
   persistent bacterial colonization esp given high vanco troughs.
   Otherwise afebrile and asymptomatic.  Surveillance micro NGTD, TTE
   unremarkable
   - Appreciated ID recs:
   - Cont Vanco and dose for <20 or per HD
   - Dapto stopped, d/c zosyn,
   - restarted Cipro 250mg daily on [**4-19**]
   - Surveillance cultures, f/u paracentesis micro
   - albumin 50gm IV BID
   - IVF boluses prn for low BP, monitor CVP with goal [**10-24**]
   - plan to repeat diagnostic para [**4-20**]
   - TTE good study with no vegetations
   - try to pull RIJ when feasible as may be infected with MRSA given when
   it was put in.
   .
   # Acute renal failure- b/l 1.5-1.7.  Most likely 2/2 HRS resulting from
   combination of large volume paracentesis and bacterial peritonitis.
   Despite tx for HRS creatinine continues to worsen with minimal urine
   output.   Renal ultrasound did not show any evidence of hydronephrosis
   or post obstructive cause for the renal failure.   Bladder pressure 25
   s/p 2 liter paracentesis [**4-16**].  s/p HD line [**2168-4-18**]
   - continue octreotid/midodrine/albumin 50g IV BID
   - appreciate renal reccs
   - HD initiated yesterday, renal following
   - FFP for procedures
   - Renal dose medications, cont phos binder, [**Hospital1 7**] lytes
   .
   # Hyperglycemia- Has been difficult to control in setting acute
   infection, may be contribution of poor sq absorption.
   - Appreciate [**Last Name (un) **] recs
   - Increasing NPH to 20 units TID with HISS, can consider insulin gtt if
   not responsive
   .
   # HCV cirrhosis- End stage, currently on transplant list
   - SBP on Vanco by level for <20.  Dapto stopped
   - encephalopathy ppx - lactulose, rifaximin
   - esophageal varices ppx - holding nadolol
   - ascites treatment - holding spironolactone 100mg daily, furosemide
   40mg daily
   - nutritional supplementation w tube feeds -> restart after HD line
   .
   #Coagulopathy
 likely [**2-15**] ESLD and nutritional deficiency, though not
   correcting with vitamin k
   -5mg po vitamin K with little effect
   - FFP to be given prior to procedures
   .
   # FEN: Tube feeds, monitor electrolytes
   .
   # Anemia/Thrombocytopenia: Likely multifactorial due to ESLD, ARF,
   nutritional deficiency, phlebotomy.  Hct 20 this AM, given 1 unit PRBCs
   [**4-19**]
   - Cont to trend
   - Active T/S at all times
   - xfuse prbcs for Hct <21, Plt <10 unless bleeding/procedures
   .
   # Anion gap acidosis: Likely related to uremia due to ARF as well as
   lactic acidosis due to ESLD
   - Cont follow
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2168-4-15**] 07:19 PM
   Multi Lumen - [**2168-4-15**] 10:26 PM
   Dialysis Catheter - [**2168-4-18**] 11:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: Called out to [**Doctor Last Name 976**]-[**Doctor Last Name 2578**]